US07655664B2
2-tert-Butyl-6-hydroxy-1,2,3,4-tetrahydro-2,7-naphthyridine
A solution of 2-tert-butyl-6-methoxy-1,2,3,4-tetrahydro-2,7-naphthyridine (5.1 g, 23 mmol) and 45% hydrobromic acid in acetic acid (70 mL) was heated in a sealed tube at 100° C. for 1 h, cooled to RT and concentrated. The residue was dissolved carefully in 20% potassium carbonate solution (100 mL) and extracted four times with EtOAc. The combined organic phases were dried, filtered and concentrated. Recrystallisation from TBME-hexanes gave 3.7 g (77%) of the title compound as a white solid.

reactant | 2-tert-butyl-6-methoxy-1,2,3,4-tetrahydro-2,7-naphthyridine | 23 mmol, 5.1 g | C(C)(C)(C)N1CC2=CN=C(C=C2CC1)OC | C13H20N2O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 2-tert-Butyl-6-hydroxy-1,2,3,4-tetrahydro-2,7-naphthyridine | 3.7 g, 77% | C(C)(C)(C)N1CC2=CN=C(C=C2CC1)O | C12H18N2O
